Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
PCP: dr. ___ NP ___
.
Pul: Dr. ___
.
CC: acute SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo male with DMII, obesity and severe COPD on home O2 w/ h/o 
intubation for exacerbations p/w acute onset shortness of 
breath.  Pt reports occasional acute episodes of this while 
sleeping and shortness of breath that usually resolves with 
inhalers.  The shortness of breath was accompanied by 15 minutes 
of R-sided chest pressure but without diaphoress, n/v, numbness 
or tingling, palpitations.  He denied fevers but reportd 
positive chills.  Prior to this he was feeling "pretty good" but 
with dry cough over last week that has no improved and some 
chronic nasal congestion.  He takes prednisone 10mg every other 
day. He rarely leaves his house and reports no sick contacts. He 
sleeps on pillows. He last had PNA ___ year ago.  He received his 
influenza vaccination this year and pneumococcal vaccine ___. 
He has monthly follow-up with his NP and is also followed in 
pulmonary clinic. His FEV1/FVC ratio is 43% predicted at 30. 
.
On further ROS he denies headache, night sweats, weight loss or 
significant gain, sore throat, abdominal pain, nausea/vomiting, 
hemoptysis, diarrhea, melena, BRBPR, dysuria, ___ swelling, joint 
pain.
.
In the ED his vitals were T 103.0, BP 220/100-->185/80 , HR 
126--> 100s, 70% on 4L NC (per ambulance)-->98% on 5L after he 
received solumedrol, levaquin 750mg, lasix 80mg IV.  He was 
written for a nitroglycerin gtt but this does not appear to have 
been started.
 
Past Medical History:
1. COPD- on home O2 (3L), FEV1 22% predicted, FEV1/FVC  
ratio 43% predicted, last intubated ___ years ago. followed by 
Pulm  
2. Tobacco Abuse  
3. DM II  
4. Diverticulosis  
5. h/o SBO  
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity  

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
VS: T98.2  BP 139/99  HR 101  RR ___  93% on 3L
UOP 2300cc since arrival
GEN'L: obese male, red-faced, pursed lips, hoarse voice, appears 
slightly short of breath but no distress
SKIN: eczematous lesions bilat elbows and face, +spider 
angiomas, venous stasis changes lower extremeties, no other 
rashes, +palmar erythema, nails slightly convez but no clear 
clubbing
HEENT: NC/AT, conjunctivae pink, sclera anicteric, OP clear, 
edentulous, MMM
LN: no ___, supraclavic or axillary LN
NECK: no carotid bruits, unable to assess JVP, thick neck
CV: NR/RR, +s1/s2, ?s4, II/VI SEM LUSB
LUNGS: poor air mvmt, no clear wheezes, no ronchi, no crackles, 
no dullness to percussion
___: obese, +BS, soft, non-tender, no masses, liver span WNL 
and tip not palpable
EXT: warm, no c/c/e
NEURO: alter and oriented, moves all 4 extrems, no asterixis 
 
Pertinent Results:
u/a: mod blood, 30 protein, 100 glucose, otherwise negative for 
infection
.
CK 86-->77
Trop <0.01 x2
.
146  109  21   
============< 167 
4.4  31  0.8  
.
proBNP: 988 (38 in ___
.
8.6  > 39.8 <  181 
N:89.3 Band:0 L:6.4 M:2.6 E:1.5 Bas:0.2 
Hypochr: 1+ Anisocy: 1+ Microcy: 1+ 
Plt-Est: Normal
.
___: 12.0  PTT: 21.7  INR: 1.0  
.
___ cholesterol:
chol HDL CHOL/HD LDLcalc 
157 761   49 3.2  93 
.
CXR:
Mild cardiomegaly and the mediastinal contours are stable. 
Airspace opacity at the left lung base appears to have worsened 
and is concerning for early/developing pneumonia. Apparent 
prominence of the interstitial markings of the lower lungs is 
probably due to relative attenuation of the upper lung 
vasculature secondary to emphysema. There is no pleural effusion 
on this radiograph that does not fully include the right 
costophrenic sulcus. There is no pneumothorax. The bones are 
unchanged.
IMPRESSION:
1. Findings concerning for early/developing pneumonia of the 
left lung base.
2. Emphysema.
.
ECHO:
 The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild regional left 
ventricular systolic dysfunction with mild inferior wall 
hypokinesis. Overall left ventricular systolic function is low 
normal (LVEF 50-55%). Right ventricular chamber size is normal. 
with borderline normal free wall function. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve leaflets 
are mildly thickened. Mild (1+) mitral regurgitation is seen. 
There is moderate pulmonary artery systolic hypertension. There 
is a trivial/physiologic pericardial effusion. 
.
Spirometry ___:
Mechanics: The FVC is moderately reduced, while the FEV1/FVC 
ratio and FEV1 is severely reduced.  Flow-Volume Loop: Marked 
expiratory coving and abrupt termination of   exhalation with 
reduced volume excursion. 
Impression: Marked obstructive ventilatory defect. The reduced 
FVC may reflect gas trapping. Although a concurrent restrictive 
process cannot be ruled out.  Since ___, FVC decrased 470cc 
(18%), and FEV1 by 250cc (29%). 
     Actual Pred %Pred 
FVC   2.10  4.09 51       
FEV1   0.64 2.89 22       
MMF   0.22  2.86 8       
FEV1/FVC 30 71   43 
.
ECHO ___:
1. The left ventricular cavity size is normal. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). 
Inferior hypokinesis is probably present.
2. Compared with the findings of the prior report (tape 
unavailable for review) of ___, there has been no 
significant change.  

 
Brief Hospital Course:
___ yo male with DMII, severe COPD (FEV1/FVC 43% predicted) on 
home O2, h/o intubation and continuous smoking p/w acute onset 
shortness of breath, HTN, and fever to 103.
.
# SOB and h/o COPD: acute onset at night, but similar in nature 
to past episodes but this time did not resolve with inhalers.  
Currently pt reports he is back to his baseline.  His 
oxygenation improved with lasix 80mg IVxonce in the ED and pt's 
blood pressure decreased. CXR showed possible PNA.  Therefore 
the most likely etiologies are COPD exacerbation from acute 
bacterial pneumonia versus CHF/flash pul edema.  Pt last had 
echo in ___ that was suboptimal, but BNP at that time was 38 
versus almost 1000 this admission. Acute coronary syndrome must 
also be considered, but EKG did not show any ischemic changes 
and cardiac enzymes negative x 3. Pt also has appearance of 
likely sleep apnea which may be exacerbating his breathing as 
well as his hypertension. PE unlikely given pt's rapid 
improvement with diuresis, antibiotics and steroids, but if 
respiratory function declines, may need to consider CTA. Pt also 
has very strong risk for developing lung cancer and extensive 
smoking history. Most likely explanation again is PNA with COPD 
exacerbation.  The patient was started on levofloxacin and 
received a steroid pulse with slow taper to his home dose of 
10mg prednisone every other day.  His home lasix dose was 
increased to 40mg daily but echo did not confirm significant CHF 
with slightly depressed EF and normal diastolic function. He was 
stable on his home O2 dose of 3L.  He is encouraged to stop 
smoking. 
.
# fever: likely ___ pulmonary process (CAP).  Pt does have URI 
symptoms but doubt that this is influenza.  U/a negative, blood 
cultures were positive in one anaerobic bottle for PORPHYROMONAS 
SPECIES.    BETA LACTAMASE POSITIVE. This is likely from an 
oropharyngeal source.  ID was curbsided who recommended flagyl 
for a 2 week course in addition to levofloxacin.  The patient is 
edentulous but mouth flora could still have been aspirated, for 
instance. He did not show any signs of sepsis this 
hospitalization and will follow-up with his PCP.  His fevers 
resolved after initiation of levofloxacin.
.
# PUMP: ?CHF given increased BNP, no clear e/o volume overload 
on exam but pt did respond well to lasix. Pt had marked HTN in 
ED which may be influenced by ?sleep apnea. Echo ___ did not 
show clear cardiac dysfunction.  He was continued on his 
outpatient ace inhibitor and was started on a beta blocker.  
Echo showed slightly depressed EF.  
.
# CAD: pt does not have past stress test, LDL < 100 on very 
low-dose statin.  Pt takes daily aspirin.  He also has diabetes. 
 First 2 sets show unlikely ACS.  will continue to trend but no 
further work-up indicated.  Echo did not show any evidence of 
prior ischemia.
.
# RHYTHM: tachycardic at admission, could be from albuterol, 
pain, anxiety.  His heart rate normalized.
.
# DMII: Hgb A1C 6.5.  Pt is on glipizide and metformin.  The 
steroids caused a significant increase in his blood sugars to 
300s.  His outpatient medications were restarted and he was 
placed on a sliding scale.  His fingersticks will likely improve 
off steroids.  He will f/u with his PCP. 
.
# contact: wife ___ ___
.
# dispo: home, cleared by ___
 
Medications on Admission:
prilosec 20mg BID
Aspirin 325mg daily
Simvastatin 5mg daily
Glyburide 2.5 mg QOD
Senna 2 tabs daily
Metformin 100mg BID
Docusate 100mg TID
Ranitidine 300mg daily
Prednisone 10mg QOD
Lisinopril 20mg daily
magnesium oxide 400mg daily
Lasix 20mg daily
iron 325mg daily
albuterl PRN
combivent 2 puffis QID
Advair 1 puff QID
Cyanocobalamin monthly inj
fluticasone nasal spray daily
fosamax 70mg weekly
Oysco (calcium +vit D) 2 tabs BID
Lumigan 2.5 each eye daily
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Prilosec OTC 20 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.  
8. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
10. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 10 days.
Disp:*10 Tablet(s)* Refills:*0*
11. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
14. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
15. PredniSONE 50 mg Tablet Sig: ___ Tablets PO DAILY (Daily): 
PREDNISONE TAPER: 50mg daily, then ___ d, then 30mgx3d, 
then 20mgx3d, then 10mgx3d, then 10mg QOD per outpatient regimen 
 .
Disp:*30 Tablet(s)* Refills:*2*
16. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
17. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
18. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
19. Oysco 500/D 500 (1,250)-200 mg-unit Tablet Sig: Two (2) 
Tablet PO twice a day.  
20. Lumigan 0.03 % Drops Sig: One (1) drop Ophthalmic once a 
day.  
21. Prednisone 10 mg Tablet Sig: ___ Tablets PO once a day: 
PREDNISONE TAPER: starting ___ d, then 30mgx3d, then 
20mgx3d, then 10mgx3d, then 10mg QOD per outpatient regimen  .
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Pneumonia with bacteremia
.
SECONDARY:
1. CHRONIC OBSTRUCTIVE PULMONARY DISEASE- on home O2 (3L), FEV1 
22% predicted, FEV1/FVC ratio 43% predicted, last intubated ___ 
years ago.  
2. Tobacco Abuse  
3. DM II  
4. Diverticulosis  
5. h/o small bowel obstruction 
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity  

 
Discharge Condition:
Fair but at baseline
.
O2 Sat 95-98% on 2L NC
BP ___
FSBG 200s

 
Discharge Instructions:
You were admitted with shortness of breath and a fever.  You had 
likely pneumonia on your chest x-ray.  You also had fluid in 
your lungs that may have been secondary to transient high blood 
pressure.  You will finish a total 14-day antibiotic course with 
2 different antibiotics.  You also were found to have bacteria 
in your blood that is likely related to your lung infection or 
may have come from your mouth.  You will need to schedule f/u 
with ENT in regards to any mouth ulcers.
.
You had an exacerbation of your obstructive pulmonary disease 
and were started on increased prednisone dose.  You will need to 
slowly taper this medication as instructed.  Do not abruptly 
stop this medication.
.
You had an ultrasound of your heart that showed some depressed 
function but was otherwise normal.  You did not have evidence of 
a heart attack.
.
Continue your inhalers as done previously.  Your furosemide is 
increased to 40mg daily. Your glyburide is now scheduled for 
every day.  
.
Please check your fingerstick glucose level in the morning and 
at night.  Call your physician if your blood sugar is greater 
than 400.  If less than 70, have some juice and recheck. Bring 
these numbers with you when you see your NP.
.
If you develop any concerning symptoms such as worsening 
shortness of breath, persistent fevers, or chest pain, please 
call your physician or proceed to the emergency department.

 
Followup Instructions:
___